US05728695
2-(2-Trifluoromethyl-phenyl)oxirane
α,α,α-trifluoro-o-tolualdehyde (3 g) was dissolved in anhydrous tetrahydrofuran and cooled to -78° C., iodochloromethane (1.38 ml) was then added, followed by methyllithium (1.5M complexed with lithium bromide) (12 ml) added over 5 minutes. The reaction was left to warm up to room temperature overnight. The reaction was quenched using saturated ammonium chloride solution and extracted using diethyl ether (2×50 ml). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated to afford a brown oil. Purification on flash silica eluted with 100% hexane up to 5% EtOAC in hexane afforded a colourless oil (1.1 g). 1H NMR (250 MHz, CDCl3) δ2.61-2.71 (1H, dd), 3.14-3.25 (1H, dd), 4.17-4.27 (1H, m), 7.33-7.70 (5H, m).

reactant | α,α,α-trifluoro-o-tolualdehyde | 3 g | FC(C=1C(=CC=CC1)C=O)(F)F | C8H5F3O
reactant | iodochloromethane | 1.38 ml | ICCl | CH2ClI
reactant | methyllithium | 1.5M, 12 ml | C[Li]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2-Trifluoromethyl-phenyl)oxirane | 1.1 g | FC(C1=C(C=CC=C1)C1OC1)(F)F | C9H7F3O
